US20010044445A1
3-(5-bromo-3-pyridinyl)-1-(4-nitrophenyl)-1H-pyrazol-5-ol
Condensation of methyl 5-bromonicotinoylacetate and p-nitrophenylhydrazine using methodology previously described gave the title compound in quantitative yield.

reactant | methyl 5-bromonicotinoylacetate | BrC=1C=NC=C(C(=O)CC(=O)OC)C1 | C9H8BrNO3
reactant | p-nitrophenylhydrazine | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
product | 3-(5-bromo-3-pyridinyl)-1-(4-nitrophenyl)-1H-pyrazol-5-ol | quantitative yield | BrC=1C=C(C=NC1)C1=NN(C(=C1)O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H9BrN4O3
